US05554607
3-(5-Chloro-2-methylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one
A mixture of the crude N-ethyl glycine (9.23 g), 5-chloro-2-methylphenylisothiocyanate (9.18 g), triethyl amine (10 g) and chloroform (250 mL) was heated at reflux for 18 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (400 mL) and water (300 mL). The organic phase was washed with 1N HCl (2×300 mL), then evaporated to dryness. Purification was achieved through crystallization from ethanol. The title compound (7.6 g) was obtained as a light pink solid, m.p. 152°-154° C. Anal. Calcd. for. C12H13Cl N2O S: C, 53.63; H, 4.88; N, 10.42. Found: C, 53.36; H, 4.79; N, 10.35. Mass spectrum (EI, M.+) m/z 268/270.

reactant | N-ethyl glycine | 9.23 g | C(C)NCC(=O)O | C4H9NO2
reactant | 5-chloro-2-methylphenylisothiocyanate | 9.18 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | triethyl amine | 10 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-Chloro-2-methylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one | 7.6 g | ClC=1C=CC(=C(C1)N1C(N(CC1=O)CC)=S)C | C12H13ClN2OS
